US06133271
With the procedure of Example 1, the reaction of benzylamine with 4-chloro-2-(isoxazol-5-yl)-5-methyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-benzylamino-5-methyl-thieno-[2,3-d]-pyrimidine.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-chloro-2-(isoxazol-5-yl)-5-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC=C2C | C10H6ClN3OS
product | 2-(isoxazol-5-yl)-4-benzylamino-5-methyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC=C2C)NCC2=CC=CC=C2 | C17H14N4OS
